US09290509B2
An oven dried, two neck round bottomed flask equipped with a Teflon magnetic stir bar was charged with 3.00 g of isosorbide (20.5 mmol), 5.30 g potassium t-butoxide (47.2 mmol), and 50 mL of anhydrous DMF. This heterogeneous mixture was stirred for 30 minutes at room temperature, then brought to about 0 degrees Celsius in an ice/saturated brine bath. While stirring and under argon, 3.90 mL of allyl bromide (45.2 mmol) was added dropwise via syringe. After addition was complete, the ice bath was removed and the solution warmed to room temperature. The reaction was continued for 4 hours at room temperature under argon. After this time, the heterogeneous solution was filtered to remove potassium bromide and other solids. The filtrate was then transferred to a 250 mL boiling flask containing a Teflon stir bar, was diluted with 50 mL of methylene chloride and 50 mL of water, and vigorously stirred. The biphasic solution was poured into a 250 mL separatory funnel and the bottom organic layer removed into a 125 mL Erlenmeyer flask. This solution was then diluted with another 50 mL volume of water, the resultant biphasic solution mixed as before, and the organic phase was extracted, dried with anhydrous magnesium sulfate and concentrated in vacuo, producing a light yellow oil, 4.12 g (89%). This material was spectroscopically confirmed by GC/MS (EI), providing one signal (m/z 226.1) corresponding to (3R,3aR,6S,6aR)-3,6-bis(allyloxy)hexahydrofuro[3,2-b]furan (diallyl isosorbide, B).

reactant | isosorbide | 20.5 mmol, 3.00 g | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | potassium t-butoxide | 47.2 mmol, 5.30 g | CC(C)([O-])C.[K+]
reactant | allyl bromide | 45.2 mmol, 3.90 mL | C(C=C)Br | C3H5Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (3R,3aR,6S,6aR)-3,6-bis(allyloxy)hexahydrofuro[3,2-b]furan | C(C=C)O[C@H]1[C@@H]2[C@H](OC1)[C@H](CO2)OCC=C | C12H18O4
